### PR TITLE
chore: private many auxiliary results on nimbers

### PR DESCRIPTION
**Pull request by vihdzp**

### CODE REVIEW

File: CombinatorialGames/Nimber/Basic.lean [hunk 1]
```diff
@@ -197,13 +193,13 @@ protected theorem neg_eq (a : Nimber) : -a = a :=
   rfl
 
 instance : AddCommGroupWithOne Nimber where
-  add_assoc := Nimber.add_assoc
-  add_zero := Nimber.add_zero
-  zero_add := Nimber.zero_add
+  add_assoc := private add_assoc
+  add_zero := private add_zero
```
Comment (plp127) [inline CombinatorialGames/Nimber/Basic.lean]:
```suggestion
  add_assoc := by exact add_assoc
  add_zero := by exact add_zero
```

File: CombinatorialGames/Nimber/Basic.lean [hunk 2]
```diff
@@ -197,13 +193,13 @@ protected theorem neg_eq (a : Nimber) : -a = a :=
...
+  zero_add _ := by rw [add_comm, add_zero]
   nsmul := nsmulRec
   zsmul := zsmulRec
   neg_add_cancel := add_self
-  add_comm := Nimber.add_comm
+  add_comm := private add_comm
```
Comment (plp127) [inline CombinatorialGames/Nimber/Basic.lean]:
```suggestion
  add_comm := by exact add_comm
```

File: CombinatorialGames/Nimber/Field.lean [hunk 3]
```diff
@@ -212,18 +212,15 @@ protected theorem one_mul (a : Nimber) : 1 * a = a := by
...
 termination_by a
 
-protected theorem mul_one (a : Nimber) : a * 1 = a := by
-  rw [Nimber.mul_comm, Nimber.one_mul]
-
 instance : CommRing Nimber where
-  left_distrib := Nimber.mul_add
-  right_distrib := Nimber.add_mul
+  left_distrib := private mul_add
+  right_distrib := private add_mul
```
Comment (plp127) [inline CombinatorialGames/Nimber/Field.lean]:
```suggestion
  left_distrib := by exact mul_add
  right_distrib := by exact add_mul
```

File: CombinatorialGames/Nimber/Field.lean [hunk 4]
```diff
@@ -212,18 +212,15 @@ protected theorem one_mul (a : Nimber) : 1 * a = a := by
...
   zero_mul := zero_mul
   mul_zero := mul_zero
-  mul_assoc := Nimber.mul_assoc
-  mul_comm := Nimber.mul_comm
-  one_mul := Nimber.one_mul
-  mul_one := Nimber.mul_one
+  mul_assoc := private mul_assoc
+  mul_comm := private mul_comm
+  one_mul := private one_mul
```
Comment (plp127) [inline CombinatorialGames/Nimber/Field.lean]:
```suggestion
  mul_assoc := by exact mul_assoc
  mul_comm := by exact mul_comm
  one_mul := by exact one_mul
```

**Review by plp127 — APPROVED** [review]
Just a few places where `private` should be replaced with `by exact`

**Review by plp127 — APPROVED** [review]
